US05326840
N-(2-tert-Butoxycarbonyloxyphenyl) methacrylamide
K2CO3 (30 g) is added to a solution of 20.0 g (0.112 tool) of N-(2-hydroxyphenyl)methacrylamide in tetrahydrofuran (THF). A solution of 27 g (0.124 tool) of di-tert-butyl pyrocarbonate (di-tert-butyl dicarbonate) in THF is then added dropwise at room temperature while stirring. The reaction is complete after a few hours. The reaction mixture is poured onto ice and extracted with ethyl acetate, the organic phase is dried and the solvent is distilled off. A yellowish oil is obtained which decomposes on distillation. The product is used for polymerization without further purification.

reactant | K2CO3 | 30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-hydroxyphenyl)methacrylamide | 20.0 g | OC1=C(C=CC=C1)NC(C(=C)C)=O | C10H11NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(2-tert-Butoxycarbonyloxyphenyl) methacrylamide | C(C)(C)(C)OC(=O)OC1=C(C=CC=C1)NC(C(=C)C)=O | C15H19NO4
